US04927922
(Z)-7-[[(2-Amino-4-thiazolyl)(methoxyimino)acetyl]amino]-3-[[[5-[4-(1,1-dimethylethyl)phenyl]-1,2,3-thiadiazol-4-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo-[4.2.0]oct-2-ene-2-carboxylic acid
A mixture of 0.5 g of Cefotaxime, sodium salt, 0.4 g of 5-[4-(1,1-dimethylethyl)phenyl]-1,2,3-thiadiazole-4-thiol, potassium salt and 16 ml of water was heated at 70° C. for 5.5 hours with pH adjustment to 6.8-7.2, then cooled and filtered. The filtrate was adjusted to pH 5 and extracted with 30 ml of ethyl acetate. The aqueous remainder was filtered through diatomaceous earth and adjusted to pH 2.5 with 2N hydrochloric acid. The resulting solid was collected, washed with water and dried, giving 86 mg of the desired product as a light orange solid [α]D26 =-10°+2 (0.885 DMSO): IR(KBr) 1770 cm-1 (β-lactam --C=O).

reactant | Cefotaxime | 0.5 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)/C(=N\OC)/C3=CSC(=N3)N)SC1)C(=O)O | C16H17N5O7S2
reactant | sodium | [Na] | Na
reactant | 5-[4-(1,1-dimethylethyl)phenyl]-1,2,3-thiadiazole-4-thiol | 0.4 g | CC(C)(C)C1=CC=C(C=C1)C1=C(N=NS1)S | C12H14N2S2
reactant | potassium | [K] | K
solvent | water | 16 ml | O | H2O
product | (Z)-7-[[(2-Amino-4-thiazolyl)(methoxyimino)acetyl]amino]-3-[[[5-[4-(1,1-dimethylethyl)phenyl]-1,2,3-thiadiazol-4-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo-[4.2.0]oct-2-ene-2-carboxylic acid | 86 mg | NC=1SC=C(N1)/C(/C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)CSC=1N=NSC1C1=CC=C(C=C1)C(C)(C)C)=N/OC | C26H27N7O5S4
